Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ h/o DM2, HTN and recently diagnosed multiple myeloma 
referred from oncologist to ___ for evaluation of 
weeks of back pain and CT T/L spine with diffuse lytic lesions 
throughout spine.  He describes pain in lower back and hips that 
is worsened by movement, non - radiating and moderate in 
severity.  Pain has made standing/walking difficulty and he has 
a sense that his general strength is reduced.  He was 
transferred from ___ to ___.  

ROS: 20 lb weight loss over several months, diarrhea yesterday 
x1, chronic incontinence mild unchanged, no sensation of urinary 
retention or difficulty defecating.  No new headache or focal 
numbness.  No recent falls or trauma.  Otherwise 13pt ROS 
negative.
 
Past Medical History:
multiple myeloma
--started on dexamethasone 1 week ago
--his oncologist is Dr. ___ ___ affiliated w  
DFCI
--  DIAGNOSIS           

   This is a copy ___ report 
___.
    
   Note: These slides are on file at ___ 
___ under the above
   case ___.
    
                       HEMATOPATHOLOGY REPORT - Final
    
    
   PATHOLOGIC DIAGNOSIS:
    
   BONE MARROW ASPIRATE AND CORE BIOPSY:
    
   PLASMA CELL MYELOMA, SEE NOTE.
    
   NOTE:  Bone marrow aspirate contains many small sized plasma 
cells and
   plasmacytoid lymphocytes, collectively amounting to 39% of 
marrow
   aspirate differential. By CD138 immunostain, plasma cells 
occupy 90% of
   marrow core cellularity and appear kappa restricted. By 
concurrent flow
   cytometric assessment of marrow aspirate, CD38 gated plasma 
cells
   comprise 12% of total analyzed events and are cytoplasmic
   immunoglobulin light chain kappa light chain restricted. They 
are CD45
   positive, CD56 positive, CD20 positive, CD117 positive 
(subset), and
   CD19 negative.

   Correlation with cytogenetic (___-___), clinical, 
radiographic, and
   other laboratory findings is recommended for exact nosologic
   subclassification.
    
    
   MICROSCOPIC DESCRIPTION.
    
   PERIPHERAL BLOOD SMEAR: Not received.
    
   ASPIRATE SMEAR:
   The aspirate material is adequate for evaluation and consists 
of
   multiple cellular spicules. The M:E ratio estimate is 1:1.  
Erythroid
   precursors are decreased in ___ and have normoblastic 
maturation.
   Myeloid precursors are decreased in ___ and show normal 
maturation.
   Megakaryocytes  are normal in ___ abnormal forms are seen 
including
   occasional hypolobated cells and micromegakaryocytes. A 300 
cell
   differential shows 1% blasts, 2% promyelocytes, 12% 
myelocytes, 8%
   metamyelocytes, 8% bands/neutrophils, 0% eosinophils, 30% 
erythroids,
   38% lymphocytes (including many that appear 'plasmacytoid), 
1% plasma
   cells.
    
   CLOT SECTION and BIOPSY SLIDES:
   The core biopsy material is adequate for evaluation. It 
consists of a
   1.5 cm long core biopsy of trabecular marrow, cortical bone, 
cartilage
   and periosteum with a cellularity of 80%. There is an 
interstitial
   infiltrate of mononuclear cells, consistent with plasmacytoid
   lymphocytes and plasma cells occupying 90% of overall 
cellularity, by
   CD138 immunostaining. They are immunoreactive for CD20 and 
are
   kappa-restricted by kappa and lambda immunostains. They are 
negative
   for BCL1, CD23, CD10, BCL6. Ki-67 reveals a low proliferation 
index
   (<1%). CD43, CD5 and CD3 stains highlight admixed T cells.
   In the limited remaining cellularity, erythroid precursors 
are
   decreased in ___ and have overall normoblastic maturation. 
Myeloid
   precursors are decreased in ___ and have normal 
maturation.
   Megakaryocytes are decreased in ___.
   Clot displays findings similar to those of the biopsy.
    
   SPECIAL STAINS:
   Iron stain performed on the aspirate material is adequate for
   evaluation.  Storage iron is present.  Sideroblasts are seen 
and
   occasional ring sideroblasts are present (latter comprise 5% 
of
   nucleated erythroid precursors).
   ___ red staining  performed on the core biopsy is negative 
for
   amyloid.
    
   ADDITIONAL STUDIES:
   Flow cytometry:  Not performed.
   Cytogenetics:  See separate report ___.
   Molecular Studies:  Not performed.
    
HTN

DM2
 
Social History:
___
Family History:
not pertinent to management currently
 
Physical Exam:
97.9 152/60 67 96% 1.5L
non toxic, well appearing, not confused, alert
eomi, face symmetric tongue pink and moist
clear BS bilaterally
regular s1 and s2, w soft systolic murmur near LUSB non 
radiating
soft non tender abdomen
rectal exam; good rectal tone, able to bear down fully
he flinches and appears uncomfortable when shifting body in bed, 
but when percussing fist on spine, he does not wince or complain 
of focal pain
no pain or deformity of either hip
motor strength full ___ in both proximal/distal muscles in arms 
and legs/feet on flexion/extension
no impaired sensation to light touch
no edema to ankles
calm and cooperative

139/62 68 afebrile
aox3, calm and attentive
not confused
walking hall slowly using walker, balance steady
regular pulse

 
Pertinent Results:
___ 10:30PM BLOOD WBC-4.1 RBC-3.06* Hgb-9.5* Hct-29.2* 
MCV-95 MCH-31.0 MCHC-32.5 RDW-13.7 RDWSD-48.0* Plt ___
___ 10:30PM BLOOD Glucose-219* UreaN-11 Creat-0.6 Na-133 
K-3.4 Cl-101 HCO3-28 AnGap-7*

DIAGNOSTIC IMAGING REPORT
____________________________________________________

ACCESSION #               TYPE/EXAM                              
      RESULT
___.           CT/SPINLWO             
 ___.           CT/SPINTWO             
               CT  CT/SPINE LUMBAR W/O CONTRAST; CT/SPINE 
THORACIC W/O CONTRAST 

CT/SPINE LUMBAR W/O CONTRAST, CT/SPINE THORACIC W/O CONTRAST
Accession ___: ___.
Date/Time of Exam: ___ 17:58:51
Reason for Exam:atraumatic low back pain
 
Dose Report
Topogram CTDIvol: 0.13 mGy
Body Region CTDIvol: 19.5 mGy
DLP: 1241.2 mGy.cm for both thoracic, lumbar spine
 
TECHNIQUE: Axial 2 mm thick unenhanced sections obtained from 
above
thoracic inlet, through lower sacrum. Imaging data were 
reformatted
into coronal and sagittal planes.
Findings: Comparison with prior CT chest ___.
Thoracic: On the sagittal reformations, mixture of heterogeneous
osteolytic and sclerotic change of the C3-C7 vertebral bodies
indicates extensive multiple myelomatous involvement. There is
moderate to severe diffuse heterogeneous thoracic 
demineralization
with slight dextroscoliosis. Numerous small Schmorl node 
endplate
deformities. There is a broad T12 lower endplate collapse, new 
finding
from prior of 2 months ago, suggesting this represents an acute
pathological endplate collapse. Minimal posterior wall 
retropulsion
inferiorly without central canal compromise or stenosis.  No
high-grade canal stenosis identified. There is greater
demineralization of the entire thoracic spine. There are 
numerous
Schmorl node endplate deformities, most concentrated between T6 
and
T11. Osteolytic vertebral body changes extend to the cortex to 
the
right side and T2 and to the anterior cortex and T3, but there 
is no
vertebral collapse presently of these vertebral bodies. There is
osteolytic involvement of the laminae of T10, without definite
pathologic fracture lucency, but extending to involve and erode 
the
posterior laminar cortex on axial image 128. There are poorly
marginated lytic foci in virtually every thoracic vertebral body
throughout thoracic spine; leading to posterior wall 
demineralization
at upper posterior T9, and posterior T8; without other definite
fracture or cortical defect identified. No definite evidence of
extraosseous epidural soft tissue disease identified.No 
appreciable

listhesis. Tiny pleural effusions, dependent lung bibasilar
atelectasis.
Lumbar spine: Severe DDD, from L1 through 3, and at L4/5. L2/3
retrolisthesis, L4/5 anterolisthesis. Heterogeneous diffuse 
lumbar
demineralization, numerous poorly marginated lytic foci 
throughout the
lumbar vertebral bodies. No definite pathological fracture of 
the
lumbar spine. Moderate multilevel facet DJD throughout. No clear 
pars
defect. Central stenosis at L4/5, L2/3. Multilevel foraminal 
stenosis
from L2-S1. Small amount of posterior L4 level extraosseous 
anterior
epidural space disease suspected. Not evident anywhere else in 
the
lumbar spine. On the lowest sections through the sacrum, no 
definite
sacral fracture, or pathological pelvis fracture. Lytic lesions 
of the
posterior superior iliac crests both sides.
 
CONCLUSIONS:
1. Severe heterogeneous widespread thoracic and lumbar vertebral
involvement with poorly marginated osteolytic foci in keeping 
with
widespread myeloma. A few foci of upper thoracic, cervical 
sclerotic
involvement as well.
2. A mild pathologic T12 lower endplate collapse evident.
3. Numerous foci of lytic change extending to an eroding cortex,
details above, no other definite pathological fracture. 
Scattered
midthoracic Schmorl node endplate deformities.
4. Degenerative stenosis, as noted above. Small amount of 
anterior
epidural extraosseous disease seen behind L4. Not itself 
contributing
to significant stenosis or thecal sac compression.
5. Multilevel facet DJD. Incidental pleural effusions, bibasilar
atelectasis.
6. Consider gadolinium-enhanced thoracic spine and lumbar 
imaging for
more precise definition of enhancing epidural extraosseous 
disease.
 
Electronically Signed ___ M.D. ___ 
6:57 ___

IMPRESSION: 
  
  
1. Severe multilevel spondylosis throughout the cervical and 
lumbar spine.  
Within the cervical spine, degenerative disease is most 
pronounced at C5-C6 
with severe spinal canal and bilateral neural foraminal 
narrowing. 
2. Within the lumbar spine, severe spinal canal stenosis is seen 
at L2-L3 and 
L4-L5.  Multilevel moderate to severe neural foraminal narrowing 
is also 
identified as described above. 
3. No cord signal abnormalities are identified.  No enhancing 
focal lesions 
are noted within the spinal canal. 
4. Mildly STIR heterogeneous, enhancing lesion within the T2 
vertebral body 
measures up to 1.3 cm and may be consistent with a myelomatous 
lesion. 
5. Diffuse T1 marrow hypointensity, is presumably secondary to 
the patient's 
underlying multiple myeloma.  This makes evaluation for 
discretely lytic 
lesions difficult and correlation with CT examination is 
recommended. 
  

___ 10:33AM BLOOD WBC-3.1* RBC-3.16* Hgb-9.9* Hct-29.8* 
MCV-94 MCH-31.3 MCHC-33.2 RDW-13.9 RDWSD-47.8* Plt ___
___ 10:33AM BLOOD Glucose-297* UreaN-11 Creat-0.7 Na-128* 
K-3.6 Cl-95* HCO3-30 AnGap-7*
 
Brief Hospital Course:
___ with DM2, HTN and myeloma not yet on therapy hospitalized 
with back pain in context of spinal osteolytic myeloma related 
lesions.

Consulted Radiation Oncology and medical oncology.  The patient 
underwent MRI spine that did not show cord signal changes but 
rather spinal stenosis and bone changes suggestive lytic spread 
of myeloma better assessed on spine CT done at ___.  
The patient received low dose oxycodone with fair effect and the 
patient was able to get up and walk using walker with aide and 
with physical therapy.  This indicated that pain control was 
reasonable and that he did not have uncontrolled pain that would 
warrant immediate initiation of radiation therapy.  Radiation 
oncology deferred on starting radiation therapy.  Since the 
patient has his own oncologist who is treating him, medical 
oncology ddid not recommend starting treatment now.  The patient 
did have hyperglycemia when started on dexamethasone for his 
myeloma several weeks ago, but he has since stopped the 
dexamethasone.  His oncologist will discuss treatment and 
management options of his myeloma with the patient.  He has mild 
anemia likely related to multiple myeloma.

I did not consult spine surgery given that the patient could 
walk with walker and that given age and comoribidities 
assessment  for surgical treatment of spinal stenosis did not 
seem to be indicated.

THe patient chose to be DNR/DNI and completed MOLST form on 
___ with wife present.  At times he has said phrases like 
hopelessness and whats the point of going on.  He does not have 
suicidal thoughts or a plan but seems depressed by having 
illness/myeloma and that some therapies like steroids worsened 
his diabetes.  I brought up idea of palliative care consult with 
his oncologist, Dr. ___.

The patient has hyponatremia and this may be SIADH, but was not 
worked up with urine tests and it was fairly mild 128.  
[]repeat Na chemistries in 1 week.  

HTN:
lisinopril and amlodipine

DM2; resumed metformin on discharge and reduced dose from 2500mg 
over the day to 1000mg bid
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO DAILY 
6. Terazosin 5 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
multiple myeloma
spine lytic lesions
spinal stenosis 
hyponatremia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
you were hospitalized for back pain related to multiple myeloma 
that spread to your spine and also findings of spinal stenosis.

treatment of this pain will now be focused on physical therapy 
to get you moving more and with use of low dose opioid.

we discussed you should not drive or use machinery on opioid as 
it can cause sedation
 
Followup Instructions:
___